US03932524
A solution of 44.5 g of octyl chloride in 300 cc of xylene was added dropwise to 12 g of degreased and dry magnesium immersed in a few cc of anhydrous diethyl ether, whilst heating until the reaction started. When the reaction had started, the octyl chloride was added in the cold. When all the octyl chloride solution had been added, stirring was continued for about 1 hour further. 13.8 g of phosphorus oxychloride were then added in the cold. The mixture was then heated to boiling under reflux for 2 hours 30 minutes. The solution was hydrolysed by the addition of 1 litre of water acidified with 100 cc of HCl. The organic phase was decanted, washed with distilled water and neutralised with sodium bicarbonate. After decanting, the organic phase was recovered and then steam-distilled or steam-stripped to remove the solvent without distilling the product. A white solid, trioctylphosphine oxide, was obtained.

reactant | octyl chloride | 44.5 g | C(CCCCCCC)Cl | C8H17Cl
reactant | magnesium | [Mg] | Mg
reactant | phosphorus oxychloride | 13.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 100 cc | Cl | ClH
solvent | xylene | 300 cc | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 1 litre | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | trioctylphosphine oxide | C(CCCCCCC)P(CCCCCCCC)(CCCCCCCC)=O | C24H51OP
